US06294690B1
Step B: Preparation of (1-Cyanocyclohexyl)acetic Acid Ethyl Ester
Added 1% Pd/C catalyst (1.67 g, 0.157 mmol) to a solution of (1-cyanocyclohexa-2,5-dienyl)acetic acid ethyl ester (3.00 g, 15.7 mmol) in MeOH (75 mL). After shaking the reaction under 20 psi H2 at room temperature for 2 hours, the pressure was slowly released. The reaction was filtered and concentrated under reduced pressure to afford 2.89 g (94%) of product as an oil.

reactant | (1-cyanocyclohexa-2,5-dienyl)acetic acid ethyl ester | 15.7 mmol, 3.00 g | C(C)OC(CC1(C=CCC=C1)C#N)=O | C11H13NO2
catalyst | Pd/C | 0.157 mmol, 1.67 g | [Pd] | Pd
solvent | MeOH | 75 mL | CO | CH4O
product | (1-Cyanocyclohexyl)acetic Acid Ethyl Ester | 2.89 g, 94% | C(C)OC(CC1(CCCCC1)C#N)=O | C11H17NO2
